US05252540
2.0 g of 1,4-dimethylimidazole and 4.3 g of 2-chlorophenylsulfonyl isocyanate in 200 ml of toluene are refluxed for 6 h. The precipitate which forms on cooling is filtered off with suction and washed with acetone. The residue is suspended in acetonitrile/methanol and refluxed for 0.5 h. After cooling, the solid is filtered off with suction and dried under reduced pressure. 2.3 g of N-(2-chlorophenylsulfonyl)-1,4-dimethylimidazole-2-carboxamide with a melting point of 230°-231° C. are obtained. (Active ingredient Example No. 113).

reactant | 1,4-dimethylimidazole | 2.0 g | CN1C=NC(=C1)C | C5H8N2
reactant | 2-chlorophenylsulfonyl isocyanate | 4.3 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-chlorophenylsulfonyl)-1,4-dimethylimidazole-2-carboxamide | 2.3 g | ClC1=C(C=CC=C1)S(=O)(=O)NC(=O)C=1N(C=C(N1)C)C | C12H12ClN3O3S
